US04897490
5,5-Bis(4-fluorophenyl)-4-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2,4-pentadienal
To a solution of 1.75 g (3.15 mmol) 3,3-bis(4-fluorophenyl)-2-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2-propenal in 50 mL of dry benzene was added 0.96 g (3.15 mmol) triphenylphosphoranylidene acetaldehyde and the solution heated at reflux for 96 hours. The solution was concentrated in vacuo and the residue purified by chromatography on alumina (Alcoa Chemicals, grade F-20) eluting with 10% ethyl acetate in hexane to give upon concentration of the appropriate fractions 0.95 g of the title compound; m.p.=122°-124° C.

reactant | 3,3-bis(4-fluorophenyl)-2-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2-propenal | 3.15 mmol, 1.75 g | FC1=CC=C(C=C1)C(=C(C=O)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C35H24F2N4O
reactant | triphenylphosphoranylidene acetaldehyde | 3.15 mmol, 0.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 5,5-Bis(4-fluorophenyl)-4-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-2,4-pentadienal | 0.95 g | FC1=CC=C(C=C1)C(=C(C=CC=O)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C37H26F2N4O
